US07994185B2
Step B: N-{3-[(Z)-2-(2-Chloro-4-pyrimidinyl)-1-hydroxyethenyl]phenyl}-2,6-difluorobenzenesulfonamide
To a stirring solution of ethyl 3-{[(2,6-difluorophenyl)sulfonyl]amino}benzoate (47.9 g, 140 mmol) in 100 mL anhydrous THF at 0° C. was added 1M LiHMDS in THF (421 mL, 421 mmol). A solution of 2-chloro-4-methylpyrimidine (19.9 g, 154 mmol) in 100 mL of anhydrous THF was added to the reaction mixture over 30 min and warmed to rt. The reaction mixture was quenched with 50 mL of MeOH and concentrated to a black solid under vacuum. The residue was partitioned between DCM and 10% NaHSO4. The aqueous and suspended solids were extracted 2× with DCM and the combined organic extracts were filtered through a pad of Celite, concentrated, and passed through a short silica gel column (elution with THF) to provide 57 g (96%) of the title compound of Step B. 1H-NMR (400 MHz, DMSO-d6) δ ppm 11.03-11.34 (m, 1H), 8.49-8.91 (m, 1H), 7.79 (d, J=7.4 Hz, 1H), 7.65-7.76 (m, 2H), 7.55-7.63 (m, 1H), 7.50 (t, J=7.7 Hz, 1H), 7.35-7.47 (m, 1H), 7.22-7.34 (m, 2H), 6.43 (s, 1H), and 4.60 (s, 1H); ES-LCMS m/z 423.93 (M+H).

reactant | ethyl 3-{[(2,6-difluorophenyl)sulfonyl]amino}benzoate | 140 mmol, 47.9 g | FC1=C(C(=CC=C1)F)S(=O)(=O)NC=1C=C(C(=O)OCC)C=CC1 | C15H13F2NO4S
reactant | LiHMDS | 1M | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | 2-chloro-4-methylpyrimidine | 154 mmol, 19.9 g | ClC1=NC=CC(=N1)C | C5H5ClN2
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 421 mmol, 421 mL | C1CCOC1 | C4H8O
product | N-{3-[(Z)-2-(2-Chloro-4-pyrimidinyl)-1-hydroxyethenyl]phenyl}-2,6-difluorobenzenesulfonamide | 57 g, 96% | ClC1=NC=CC(=N1)\C=C(/O)\C=1C=C(C=CC1)NS(=O)(=O)C1=C(C=CC=C1F)F | C18H12ClF2N3O3S
